US04192890
The said benzene solution was cooled to 5° C. and then a solution of 27.4 g of 3-cyano-2-methyl-benzoyl chloride in 85 cc of benzene was added thereto. The mixture was allowed to return to room temperature and was stirred overnight. The mixture was refluxed for 31/2 hours and after cooling, the mixture was added to a solution of 30 cc of hydrochloric acid in 600 cc of water. The mixture was extracted with ether and the combined ether phases were washed successively with 1 N hydrochloric acid, water, 1 N sodium hydroxide and water until the wash waters were neutral. The organic phase was dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was empasted with 40 cc of petroleum ether, vacuum filtered, washed with petroleum ether and dried at room temperature under reduced pressure to obtain 30.6 g of 3-p-chlorobenzoyl-2-methyl-benzonitrile. For analysis, the product was crystallized from methanol and melted at 84° C. The compound occurred in the form of beige crystals soluble in methylene chloride and chloroform.

reactant | 3-cyano-2-methyl-benzoyl chloride | 27.4 g | C(#N)C=1C(=C(C(=O)Cl)C=CC1)C | C9H6ClNO
reactant | hydrochloric acid | 30 cc | Cl | ClH
solvent | benzene | 85 cc | C1=CC=CC=C1 | C6H6
solvent | water | 600 cc | O | H2O
catalyst | bis-(p-chlorobenzene) cadmium | [Cd].ClC1=CC=CC=C1.ClC1=CC=CC=C1
product | 3-p-chlorobenzoyl-2-methyl-benzonitrile | 30.6 g | ClC1=CC=C(C(=O)C=2C(=C(C#N)C=CC2)C)C=C1 | C15H10ClNO
